Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
6ft fall from ladder w open grade IIIA R pilon
 
Major Surgical or Invasive Procedure:
I&D and ex-fix w interval ORIF

 
History of Present Illness:
Seven months from ORIF of tibial fracture that we have been 
managing with bone
stimulator for slow healing.  He is a smoker.  At this point, he 
appears to be slightly improved and there appears to be some 
more bone density on the fracture planes.  However, I am still 
concern for the nonunion and I think it is reasonable seven 
months out to obtain a CAT scan to assess a bit more 
quantitative on how much bone has actually produced.
 
Past Medical History:
HTN
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
AVSS

Well appearing, NAD, comfortable

BUE: SILT C5-T1 dermatomal distributions

BUE: ___ Del/Tri/Bic/WE/WF/FF/IO

BUE: tone normal, negative ___, 2+ symmetric DTR 
bic/bra/tri

All fingers WWP, brisk capillary refill, 2+ distal pulses

BLE: SILT L1-S1 dermatomal distributions

BLE: ___ ___

BLE: tone normal, no clonus, toes downgoing, 2+ DTR knee/ankle

R tibial incision CDI

All toes WWP, brisk capillary refill, 2+ distal pulses

 
Pertinent Results:
___ 05:35AM BLOOD WBC-16.0* RBC-4.64 Hgb-12.2* Hct-35.4* 
MCV-76* MCH-26.2* MCHC-34.4 RDW-14.9 Plt ___
___ 05:35AM BLOOD Glucose-95 UreaN-11 Creat-0.9 Na-135 
K-4.2 Cl-102 HCO3-24 AnGap-13
___ 02:08PM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.  Refer to 
the dictated operative note for further details.  The surgery 
was without complication and the patient was transferred to the 
PACU in a stable condition.  TEDs/pnemoboots were used for 
postoperative DVT prophylaxis.  Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with a PCA.  Diet was advanced as tolerated. 
 The patient was transitioned to oral pain medication when 
tolerating PO diet.  Foley was removed on POD#2.  Physical 
therapy was consulted for mobilization OOB to ambulate but 
failed to ambulate.  Hospital course was otherwise unremarkable. 
 On the day of discharge to rehab, the patient was afebrile with 
stable vital signs, comfortable on oral pain control and 
tolerating a regular diet. 

 
Medications on Admission:
HCTZ 12.5', ASA 81', multivit, caltrate 600", colace", senna", 
metoprolol 25" 

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for Pain.
Disp:*60 Tablet(s)* Refills:*0*
2. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
QPM (once a day (in the evening)) for 2 weeks.
Disp:*14 vials* Refills:*0*
3. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
4. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO Q6H (every 6 hours) as needed for Dyspepsia.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
7. multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
8. zolpidem 5 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed for Insomnia.  
9. diphenhydramine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for Insomnia/Pruritis.  
10. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
11. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
for Rehabilitation and Sub-Acute Care)
 
Discharge Diagnosis:
R open pilon complicated by nonunion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Wound Care: 

-Keep Incision dry. 

-Do not soak the incision in a bath or pool.  

-Keep pin sites clean and dry.

-Sutures/staples will be removed at your first post-operative 
visit.

 

Activity: 

-Continue to be weight bearing on your left/right arm/leg.  

-You should not lift anything greater than 5 pounds. 

-Elevate right leg to reduce swelling and pain.

-Do not remove cast.  Keep cast dry.

 

Other Instructions

- Resume your regular diet. 

- Avoid nicotine products to optimize healing. 

- Resume your home medications. Take all medications as 
instructed. 

- Continue taking the Lovenox for 4 weeks to prevent blood 
clots.

 

-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

 

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

 

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Right lower extremity:  Non weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
  Wound care: 
 Site: Incision 
 Type:  Surgical
 Dressing:  Gauze - dry
 Comment: on AM of POD 2 by ___, then daily by RN; please 
overwrap any dressing bleedthrough with ABDs and ACE 

Site: right iliac crest 
Description: graft site
Care: DSD, see page 1

 
Followup Instructions:
___